US07687664B2
Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}phenyl)benzoate
Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-chlorophenyl)benzoate (199 mg) was dissolved in 3 ml of methanol, 100 mg of 10% palladium-carbon was added thereto, and the mixture was stirred at room temperature for 3 days in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was evaporated. The residue was dissolved in ethyl acetate, then washed with a saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and the solvent was evaporated, to give 182 mg of the title compound.

reactant | Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-chlorophenyl)benzoate | 199 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1Cl)C=1C=C(C(=O)OC)C=CC1 | C20H22ClNO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | Methyl 3-(3-{[(t-butoxycarbonyl)amino]methyl}phenyl)benzoate | 182 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C20H23NO4
